US07723333B2
2-tert-Butyl-5-phenyl-4-[(1-pyridazin-3-ylpiperidin-4-yl)amino]isothiazol-3(2H)-one 1,1-dioxide
2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.240 g, 0.80 mmol), 1-pyridazin-3-ylpiperidin-4-amine (0.257 g, 1.02 mmol) and TEA (0.324 g, 3.2 mmol), was dissolved in dry DMF (10 ml) and heated in a microwave reactor at 120° C. for 30 mins. The reaction mixture was diluted with water (300 ml) and extracted with EtOAc (2×150 ml). The combined organic phases were dried (MgSO4), filtered and evaporated and the residue was purified by silica gel column chromatography using EtOAc as eluant, to give the title compound (0.110 g, 31%). 1H NMR (500 MHz, CDCl3): δ 8.55-8.52 (m, 1H), 7.55-7.50 (m, 2H), 7.47-7.42 (m, 3H), 7.19-7.14 (m, 1H), 6.85-6.82 (m, 1H), 5.21 (d, 1H), 4.17-4.11 (m, 2H), 3.22-3.13 (m, 1H), 2.60-2.52 (m, 2H), 1.80-1.73 (m, 2H), 1.72 (s, 9H), 1.42-1.32 (m, 2H); 13C NMR (125 MHz, CDCl3): δ 159.5, 143.1, 133.8, 131.6, 129.9, 128.7, 127.4, 125, 112.8, 107.2, 61.6, 50.1, 43.6, 31.7, 27.5; Mass Spectrum: M−H+ 442.

reactant | 2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.80 mmol, 0.240 g | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 1-pyridazin-3-ylpiperidin-4-amine | 1.02 mmol, 0.257 g | N1=NC(=CC=C1)N1CCC(CC1)N | C9H14N4
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 300 ml | O | H2O
product | 2-tert-Butyl-5-phenyl-4-[(1-pyridazin-3-ylpiperidin-4-yl)amino]isothiazol-3(2H)-one 1,1-dioxide | 0.110 g, 31% | C(C)(C)(C)N1S(C(=C(C1=O)NC1CCN(CC1)C=1N=NC=CC1)C1=CC=CC=C1)(=O)=O | C22H27N5O3S
